US08802661B2
A mixture of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-carboxyethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (35 mg, 0.056 mmol) and (Z)-2-(trimethylsilyl)ethyl N,N′-diisopropylcarbamimidate (27.2 mg, 0.111 mmol) was refluxed in THF (1 mL) for 4 h. Then the mixture was placed at room temperature for 16 h. TLC showed no starting material and a new less polar product Rf=0.4 in 10% AcOEt/Hex. The solvent was removed in vacuo. The residue was dissolved in methylene chloride and purified in silica gel (0-10% AcOEt/Hex) to afford 2-(trimethylsilyl)ethyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (43 mg, 0.049 mmol, 89% yield) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.93 (d, J=8.28 Hz, 2H), 7.20 (d, J=8.03 Hz, 2H), 6.24 (t, J=6.02 Hz, 1H), 5.30 (d, J=4.77 Hz, 1H), 4.76 (d, J=1.51 Hz, 1H), 4.61 (s, 1H), 4.49-4.37 (m, 2H), 4.28-4.17 (m, 2H), 3.65-3.52 (m, 1H), 3.52-3.39 (m, 1H), 3.15 (td, J=10.85, 3.64 Hz, 1H), 2.63-2.43 (m, 3H), 2.11 (dd, J=17.19, 6.40 Hz, 1H), 2.02-1.90 (m, 2H), 1.80-1.04 (m, 22H), 1.70 (s, 3H), 1.01 (s, 3H), 1.00 (s, 3H), 0.98 (s, 3H), 0.93 (s, 6H), 0.10 (s, 9H), 0.06 (s, 9H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-carboxyethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.056 mmol, 35 mg | C(=O)(O)CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C40H55NO5
reactant | (Z)-2-(trimethylsilyl)ethyl N,N′-diisopropylcarbamimidate | 0.111 mmol, 27.2 mg | C(C)(C)N/C(/OCC[Si](C)(C)C)=N/C(C)C | C12H28N2OSi
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(trimethylsilyl)ethyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.049 mmol, 43 mg, 89% yield | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)OCC[Si](C)(C)C)C=C1)C)[C@@H](CC3)C(=C)C)C(NCCC(OCC[Si](C)(C)C)=O)=O | C50H79NO5Si2
